US07612075B2
(±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester
A solution containing (±)-1-(3-amino-4-cyano-benzyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester (42 mg, 0.08 mmol), EXAMPLE 99, 1,3,5-triazine (40 mg, 0.48 mmol), and glacial HOAc (30 mg, 0.48 mmol) in absolute EtOH (1 mL) is maintained at reflux for 16 hours. The reaction mixture is concentrated and then dissolved in water/CH3CN and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 17 mg (32%) of the title compound as a white solid.

reactant | (±)-1-(3-amino-4-cyano-benzyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 0.08 mmol, 42 mg | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC(=C(C=C2)C#N)N | C22H19ClN4O5S2
reactant | 1,3,5-triazine | 0.48 mmol, 40 mg | N1=CN=CN=C1 | C3H3N3
reactant | HOAc | 0.48 mmol, 30 mg | CC(=O)O | C2H4O2
solvent | EtOH | 1 mL | CCO | C2H6O
product | (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 17 mg, 32% | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC=C1C(=NC=NC1=C2)N | C23H20ClN5O5S2
